US07687491B2
(24d) N′-Hydroxy-2-methyl-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1d) using 2-methyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile (0.63 g, 2.1 mmol) that was obtained in Example 24 (24c) and a 40% aqueous solution of hydroxylamine (0.5 mL). Subsequently, the crude product of the title compound thus obtained was purified by recrystallization from a mixed solvent of ethyl acetate and hexane (1:9) to afford the title compound (0.61 g) in a yield of 86% as a white crystalline solid.

reactant | 2-methyl-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | 2.1 mmol, 0.63 g | CC1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C17H28N2OSi
reactant | hydroxylamine | 0.5 mL | NO | H3NO
product | N′-Hydroxy-2-methyl-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide | ON=C(N)C=1C(=NC(=CC1)CO[Si](C(C)C)(C(C)C)C(C)C)C | C17H31N3O2Si
